Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Darvon
 
Attending: ___.
 
Chief Complaint:
Ulnar arterial clot
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Ms. ___ is an ___ y/o woman with
no significant past medical history who presented with a dusky
and painful left hand.

Patient reports that she has a history of macular degeneration
and had a laser procedure on both eyes about ___ months ago.
Since then, she has not had any central scotoma. She had follow
up with her ophthalmologist 1 week prior and had no acute 
issues.
However, two days prior to admission she developed a faint pink
central spot, similar to her prior visual change but pink rather
than black. She denies any decrease in vision or blurred/double
vision. The patient also reports that she has had a daily
occipital headache since ___, when she had a fall with
headstrike but no loss of consciousness; she did not have head
imaging at that time.

On the day of admission, she awoke and felt "off." She reports
that she felt dizzy and lightheaded. At around 1100, her left
hand became cool, dusky, and extremely painful. She called ___,
and presented to ___, where CTA reportedly showed a 
12
cm ulnar artery clot. She was started on a heparin gtt, and her
hand pain resolved and hand color improved. She was transferred
here for vascular surgery and further workup. She reports no
current pain or additional symptoms. 

Of additional note, patient reported to her cardiologist ___
and at that time she reported gray discoloration of her great
toe. She denied claudication or ulceration. At that time, her
cardiologist documented that she had no obvious ischemia in the
feet and some enlarged veins on the left leg. 
 
In the ED, initial VS were: 97.4 68 140/77 16 95% RA   
Exam notable for: 2+ ulnar/radial pulse 
ECG: None 
Labs showed: H/H 10.9/33.8; PTT 43.5; BUN/Cr ___ 
Imaging showed:  
Consults: Vascular surgery
Patient received: Heparin gtt 
Transfer VS were: 66 130/61 16 99% RA   

On arrival to the floor, patient reports that she feels well and
has no complaints. Her hand pain has completely resolved, and 
the
color has returned to normal. She reports the faint pink right
central scotoma as above. Otherwise, she denies any complaints.
She denies chest pain, palpitations, shortness of breath,
numbness, tingling, weakness, headache, blurred vision. No joint
pains. No personal or family history of blood clots.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI. 
 
Past Medical History:
- Macular degeneration
- Hyperlipidemia 
- Osteopenia
 
Social History:
___
Family History:
- No known family history of blood clots
- Mother: ___, bladder cancer
- Father: ___, "lung problems"

 
Physical Exam:
ADMISSION PHYSICAL:
===================
VS: 97.5 130 / 70 (manual, bilateral) 72 20 97 RA
GENERAL: Lying in bed NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM; no temporal
artery tenderness  
NECK: No JVD  
HEART: RRR, III/VI crescendo-decrescendo systolic murmur at base
without radiation to carotids; no carotid bruits
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: Soft, NTND  
EXTREMITIES: No peripheral edema
PULSES: 2+ bilateral ulnar/radial pulses; 2+ ___ pulses
bilaterally  
NEURO: A&Ox3, unable to assess right visual acuity due to pink
scotoma, left visual acuity ___, visual fields full to
confrontation, remained of cranial nerves tested and intact;
strength and sensation in bilateral upper and lower extremities
tested and intact  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:
=========================
VITALS:
___ 2340 Temp: 98.1 PO BP: 113/64 HR: 66 RR: 18 O2 sat: 95%
O2 delivery: RA 
GENERAL: NAD
HEENT: MMM.
NECK: soft, No JVD  
HEART: RRR, nl S1 S2, III/VI crescendo-decrescendo systolic
murmur RUSB/LUSB with radiation to carotids. 
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: +BS, soft, ND, NT
EXT: WWP, no edema
PULSES: 2+ bilateral ulnar/radial pulses, 2+ ___ pulses
NEURO: CN ___ grossly intact, speech fluent, moving all
extremities spontaneously

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:00PM BLOOD WBC-7.6 RBC-3.62* Hgb-10.9* Hct-33.8* 
MCV-93 MCH-30.1 MCHC-32.2 RDW-12.9 RDWSD-44.3 Plt ___
___ 10:00PM BLOOD ___ PTT-43.5* ___
___ 10:00PM BLOOD Glucose-97 UreaN-23* Creat-0.9 Na-141 
K-4.4 Cl-105 HCO3-22 AnGap-14
___ 05:22AM BLOOD %HbA1c-5.9 eAG-123
___ 05:22AM BLOOD Triglyc-71 HDL-75 CHOL/HD-3.9 
LDLcalc-203* LDLmeas-213*

IMAGING:
========
ECHO ___
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
systolic function (3D LVEF =72%). The estimated cardiac index is 
normal (>=2.5L/min/m2). There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are moderately 
thickened. There is mild aortic valve stenosis (valve area 
1.8cm2). Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. There is severe mitral annular calcification with 
trivial mitral stenosis due to annular calcification (mean 
gradient 4 mmHg). Mild (1+) mitral regurgitation is seen. [Due 
to acoustic shadowing, the severity of mitral regurgitation may 
be significantly UNDERestimated.] The estimated pulmonary artery 
systolic pressure is high normal. There is no pericardial 
effusion. 

IMPRESSION: No intracardiac mass/thrombus seen. Mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional/global systolic function. Mild aortic stenosis. Mild 
mitral regurgitation. Minimal functional mitral stenosis. No 
defininte cardiac source of embolism identified. 

CT Head ___:
No acute intracranial abnormality.

CTA TORSO ___:
1. Moderate diffuse atherosclerotic disease without evidence of 
large atheroma to attribute to ulnar artery occlusion.
2. Few tiny infrarenal abdominal aortic penetrating 
atherosclerotic ulcers as described above.
3. Mild thickening and trabeculation of the bladder wall which 
may represent chronic infection or inflammation in the 
appropriate clinical setting.  Recommend correlation with 
urinalysis.
4. Otherwise, no acute intrathoracic or abdominopelvic process.

___
EXAMINATION:  BILAT LOWER EXT VEINS
FINDINGS: 
There is normal compressibility, flow, and augmentation of the 
bilateral
common femoral, femoral, and popliteal veins. Normal color flow 
and
compressibility are demonstrated in the tibial and peroneal 
veins.
There is normal respiratory variation in the common femoral 
veins bilaterally.
IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

DISCHARGE LABS:
================

___ 05:03AM BLOOD WBC-4.9 RBC-3.56* Hgb-10.7* Hct-33.0* 
MCV-93 MCH-30.1 MCHC-32.4 RDW-12.8 RDWSD-43.4 Plt ___
___ 05:03AM BLOOD ___ PTT-67.5* ___
___ 05:47AM BLOOD Glucose-87 UreaN-26* Creat-1.0 Na-143 
K-4.3 Cl-103 HCO3-23 AnGap-17
 
Brief Hospital Course:
PATIENT SUMMARY FOR ADMISSION:
================================
Ms. ___ is an ___ with PMH of HLD p/w painful 
and dusky L hand found to have L ulnar artery clot, unclear 
etiology based on CTA Torso evaluation ___. She was placed on a 
heparin gtt with resolution of symptoms and bridged to warfarin 
with concern for underlying hypercoagulability. When her APLS 
labs returned within the normal range, she was discharged with a 
therapeutic INR of 2.5 and will continue on warfarin as an 
outpatient. 

ACUTE Issues Addressed:
============================
# LEFT ULNAR ARTERY THROBMUS: 
Patient initially presented to OSH with an acute history of a 
dusky arm. She was found on CTA from OSH to have a 12cm left 
ulnar artery thrombus. She was transferred to ___ for 
evaluation by vascular surgery who declined immediate surgical 
intervention given resolution of ischemic symptoms with heparin 
gtt. CTA Torso was completed ___ to evaluate for evidence of a 
large atherosclerotic plaque which was negative. Additionally 
and ECHO ___ was completed to evaluate for paradoxical emboli 
which was also without acute abnormality. Telemetry was without 
evidence of atrial fibrillation. APLS antibodies were sent and 
were negative. ___ ___ dopplers were without evidence of clot. 
Additional history elicited from the patient of heart 
palpitations suggests that she may have underlying paroxysmal 
atrial fibrillation that was not caught on telemetry. Given that 
warfarin is the only FDA approved medication for arterial clots, 
pt was bridged to warfarin. INR at time of discharge 2.5. 

# MACULAR DEGENERATION 
# VISION CHANGES. 
Recently diagnosed with MD ___ laser photocoagulation. Evaluated
by ophtho ___ who found known dry MD, with foveal swelling in R 
eye perhaps c/w transient ischemia from emboli. As above, no 
clear embolic source given imaging findings. No recurrence of 
symptoms. She will require outpatient opthalmology follow up.

# CONCERN FOR ___: Sr cr uptrending during admission, although
still WNL, decreased in GFR from 0.8 to 1.1. Patient appeared 
dry on exam, with minimal PO intake. She received gentle IVF 
resuscitation with subsequent improvement in serum creatinine. 

# HEADACHES: 
On history patient reported four months of frontotemporal 
headaches. ___ ___ w/o acute abnormality. Neuro exam 
nonfocal. ESR and CRP WNL, lower suspicion for GCA (and 
noevidence of such on ophthalmologic exam). 

# HYPERLIPIDEMIA: Diet managed at outpatient. Statin indicated 
given LDL > 190, but patient intolerant as outpatient per her 
report. ___ benefit from cholesterol lowering therapy as 
outpatient given e/o atherosclerotic disease. 

# NORMOCYTIC ANEMIA: 
Hb 10.9 on admission, per outside records 11.2 in ___, 
therefore appears to be stable/chronic issue. No evidence of 
active bleeding, no reported melena or blood in the stool. H/H 
remained stable with initiation of anticoagulation.

# ATHEROSCLEROTIC ULCERS: Noted on CTA torso ___, noted to be 
tiny. Per vascular, no intervention provided patient 
asymptomatic. 

TRANSITIONAL ISSUES:
=====================

*[] ___ IS BEING DISCHARGED WITH INR 2.5 and will need INR 
monitoring
Warfarin dosing. She will be continued on warfarin 2mg daily 
with plans for INR check on ___. INR will be managed by 
her PCP's office. ___ MA and Dr ___ agreed 
to follow her INR. 
___ mg INR 1.1
___ mg INR 1.3
___ mg INR 2.0
___ mg INR 2.5

[] Consider hypercoagulable work-up as outpatient, hematology 
follow-up given that APLS studies sent while patient on heparin 
gtt. 
[] Consider long term monitoring for atrial fibrillation, such 
as ZioPatch
[] Vascular surgery f/u in ___ 
evidence of atherosclerotic ulcers. Pt has appointment scheduled 
for ___.
[] Consider statin trial as outpatient for LDL > 200
[] MRI/MRV should be pursued if patient's headaches persist 
given new onset at older age.
-Hemoglobin at time of discharge 10.7

CODE STATUS:
-Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN Dry 
eyes 

 
Discharge Medications:
1.  Warfarin 1 mg PO DAILY16 Duration: 1 Dose 
PLEASE TAKE ONLY AS INSTRUCTED BY ___ ___ 
___ *warfarin [___] 1 mg 1 tablet(s) by mouth daily as 
directed Disp #*30 Tablet Refills:*0 
2.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN Dry 
eyes  
3.Outpatient Lab Work
___, PTT, INR
I48.0
___
FAX RESULTS TO ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Ulnar Arterial Clot
Dry Macular degeneration

Secondary Diagnosis:
====================
Hyperlipidemia
Atherosclerotic ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing ___ as your site of care!

Why was I admitted to the hospital?
-You had a blood clot in your arm.

What was done for me while I was hospitalized?
-We completed images of the large blood vessels in your body and 
evaluated your heart to look for a source of blood clots.
-These tests did not show obvious clot.
-Our eye doctors ___ your eyes, which were stable.
-You were started on blood thinners to prevent further blood 
clots.

What should I do when I leave the hospital?
-Please continue taking all of your medications.
-You should follow up with your doctors as detailed below.
-If you notice one of your limbs changing colors or feeling 
cool, go to the emergency department immediately.
-You will need frequent blood draws to monitor your blood while 
you are taking Coumadin. Please take Coumadin as directed by Dr 
___.

We wish you the best.

Your ___ treatment team
 
Followup Instructions:
___